US04472316
The procedure in Example 17(1) was followed, except that 6.05 g of 3-[4-(3-chlorophenoxy)benzoyl]acrylic acid were used in place of 3-[4-(4-methylphenoxy)benzoyl]acrylic acid, to give 5.78 g of ethyl 3-[4-(3-chlorophenoxy)benzoyl]acrylate in the form of an oil.

reactant | 3-[4-(3-chlorophenoxy)benzoyl]acrylic acid | 6.05 g | ClC=1C=C(OC2=CC=C(C(=O)C=CC(=O)O)C=C2)C=CC1 | C16H11ClO4
reactant | 3-[4-(4-methylphenoxy)benzoyl]acrylic acid | CC1=CC=C(OC2=CC=C(C(=O)C=CC(=O)O)C=C2)C=C1 | C17H14O4
product | ethyl 3-[4-(3-chlorophenoxy)benzoyl]acrylate | 5.78 g | ClC=1C=C(OC2=CC=C(C(=O)C=CC(=O)OCC)C=C2)C=CC1 | C18H15ClO4
